US04025635
B. Preparation of phenoxathiin-2-carboxylic acid
A mixture of 2-acetylphenoxathiin (4.80 g), sodium hypochlorite solution (95 ml; 5.7% available chlorine), 4% sodium hydroxide solution (100 ml) and dioxan (100 ml) was mechanically stirred on the steam bath for 5 hrs. The solution was poured on to ice and excess hydrochloric acid with stirring. The white precipitate was filtered off and dissolved in hot 4% sodium hydroxide solution (40 ml) and filtered. The sodium salt of the required acid crystallised from the filtrate on cooling and was filtered off, dissolved in boiling water, and the acid precipitated by addition of excess hydrochloric acid. It was filtered off and recrystallised from acetic acid, m.p. 253° C.

reactant | 2-acetylphenoxathiin | 4.80 g | C(C)(=O)C1=CC=2SC3=CC=CC=C3OC2C=C1 | C14H10O2S
reactant | sodium hypochlorite | 95 ml | Cl[O-].[Na+]
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | phenoxathiin-2-carboxylic acid | C1=C(C=CC=2OC3=CC=CC=C3SC12)C(=O)O | C13H8O3S
